US07619092B2
To 132 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxopiperidine were added 650 ml of methanol, 84 ml of trimethoxymethane and 2 g of strongly acidic resin IR-120 (manufactured by Japan Organo Co., Ltd.), and the mixture was stirred at room temperature for 3 days. From the reaction mixture was removed insoluble matters by filtration, and the solvent was removed by distillation under reduced pressure, to give 146 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine as shown in Table 125 below.

reactant | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxopiperidine | 132 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1)=O)C1=C(C=C(C=C1)F)C | C20H20FNO3
reactant | trimethoxymethane | 84 ml | COC(OC)OC | C4H10O3
solvent | methanol | 650 ml | CO | CH4O
product | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4,4-dimethoxypiperidine | 146 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(CC1)(OC)OC)C1=C(C=C(C=C1)F)C | C22H26FNO4
